US09192603B2
Step 1: 5-Bromo-4-(trifluoromethyl)thiazol-2-amine
To a stirred solution of 4-trifluoromethyl-thiazole-2-ylamine (0.2 g; 1.2 mmol) in acetic acid (0.14 mL) and acetonitrile (1.4 mL) at 0° C. was added N-bromosuccinimide (0.23 g, 1.3 mmol). The reaction mixture was warmed to room temperature over 17 h. The reaction was diluted with methylene chloride, washed with saturated NaHCO3, dried, filtered and concentrated under vacuum to give the crude product. The residue was purified by column chromatography eluting with ethyl acetate/hexanes 0 to 20% to give the product.

reactant | 4-trifluoromethyl-thiazole-2-ylamine | 1.2 mmol, 0.2 g | FC(C=1N=C(SC1)N)(F)F | C4H3F3N2S
reactant | N-bromosuccinimide | 1.3 mmol, 0.23 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetic acid | 0.14 mL | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 1.4 mL | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-Bromo-4-(trifluoromethyl)thiazol-2-amine | BrC1=C(N=C(S1)N)C(F)(F)F | C4H2BrF3N2S
